US05169841
d) 2-cyclohexylmethyl,4,4,5,5-tetramethyl-1,3,2-dioxaborolane
62.9 ml of cyclohexylmethyl bromide are slowly added dropwise to 12.0 g of magnesium and 200 ml of diethyl ether. After the magnesium has dissolved, the solution of the Grignard compound is added dropwise to a solution of 50.3 ml of trimethyl borate in 100 ml of diethyl ether which has been precooled to -78° C. in such a way that the temperature does not rise above -55° C., and the mixture is then stirred at R.T. for 2 h. Then, while cooling in ice, 113 ml of 40% strength H2SO4 are added in such a way that the internal temperature does not rise above 25° C. 53.2 g of pinacol in 100 ml of diethyl ether are now poured in, and the diethyl ether together with the biproduct methanol are removed in a rotary evaporator. The pH is then adjusted with NaHCO3 to 8, the mixture is extracted 3 times with 200 ml of MTB, the organic phase is dried over Na2SO4, the solvent is removed in vacuo, and the residue is distilled under high vacuum. 49.7 g of the title compound are obtained as a colorless oil. ##EQU5##

reactant | cyclohexylmethyl bromide | 62.9 ml | C1(CCCCC1)CBr | C7H13Br
reactant | magnesium | 12.0 g | [Mg] | Mg
reactant | trimethyl borate | 50.3 ml | B(OC)(OC)OC | C3H9BO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | pinacol | 53.2 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-cyclohexylmethyl,4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 49.7 g | C1(CCCCC1)CB1OC(C(O1)(C)C)(C)C | C13H25BO2
